US09145433B2
A capped vial containing a stir-bar, was charged with 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1H-indazole-7-carboxylic acid (100 mg, 0.28 mmol), HBTU (140 mg, 0.36 mmol), morpholine (29 mg, 0.03 mL, 0.34 mmol), NEt3 (57 mg, 0.08 mL, 0.57 mmol) and acetonitrile (3 ml) successively and stirred the contents at room temperature. After 12 h, the reaction mixture was concentrated and diluted with EtOAc (15 mL)/H2O (5 mL). Organic layer was separated, washed with brine, dried over anhydrous Na2SO4, concentrated and purified by preparative HPLC. Product fractions were concentrated, diluted with water and neutralized with aq. Na2CO3 solution. The resulting white precipitate was filtered and dried to obtain (5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1H-indazol-7-yl)(morpholino)methanone. 1H NMR (DMSO-d6): δ 13.27 (s, 1H), 8.66 (d, 1H, J=4.7 Hz), 8.17 (s, 1H), 7.97-7.92 (m, 2H), 7.48 (dd, 1H, J=4.9 and 7.6 Hz), 7.33 (d, 1H, J=7.8 Hz), 6.97-6.88 (m, 3H), 3.62-3.42 (m, 8H), 2.10 (s, 3H).19F NMR (DMSO-d6): δ −118.69 (s).LCMS: rt 4.45 min (A), purity 97%, MS (m/e) 417 (MH+)

reactant | 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1H-indazole-7-carboxylic acid | 0.28 mmol, 100 mg | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=C2C=NNC2=C(C1)C(=O)O)C | C20H14FN3O2
reactant | HBTU | 0.36 mmol, 140 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 0.34 mmol, 0.03 mL, 29 mg | N1CCOCC1 | C4H9NO
reactant | NEt3 | 0.57 mmol, 0.08 mL, 57 mg | CCN(CC)CC | C6H15N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1H-indazol-7-yl)(morpholino)methanone | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=C2C=NNC2=C(C1)C(=O)N1CCOCC1)C | C24H21FN4O2
